US05620997
2,2'-Dithiobis(5-aminobenzamide)
2,2'-Dithiobis(5-nitrobenzamide) (2.6 g, 7.0 mmol) was added portion-wise to a refluxing slurry of reduced iron (8.7 g) in 65 mL of water containing 0.1 mL of acetic acid. The resulting slurry was heated at reflux for 2.0 hours, then cooled to room temperature. The slurry was made strongly basic (pH 11) by the addition of 14 mL of 1N NaOH. The alkaline mixture was filtered, and acetic acid was added to the solution to adjust the pH to 7.0. While bubbling oxygen into the solution, a pH=6-7 was maintained with the addition of acetic acid. A solid gradually formed as the pH begins to stabilize. The product (1.1 g) was recovered by filtration, mp 188°-190° C.

reactant | 2,2'-Dithiobis(5-nitrobenzamide) | 7.0 mmol, 2.6 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)N)C1)SSC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C14H10N4O6S2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaOH | 1N, 14 mL | [OH-].[Na+]
solvent | water | 65 mL | O | H2O
product | 2,2'-Dithiobis(5-aminobenzamide) | NC=1C=CC(=C(C(=O)N)C1)SSC1=C(C(=O)N)C=C(C=C1)N | C14H14N4O2S2
